US08871797B2
A mixture of N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide (2.0 g, 8.15 mmol) in anhydrous 1,2-dichloroethane (60 mL) was cooled at 0° C. on an ice bath and stirred for 10 minutes. Anhydrous aluminium chloride (4.35 g, 32.6 mmol) was added and the reaction mixture stirred at 0° C. for 20 minutes, then moved to an oil bath and stirred at 80° C. for 1 hour. Ethyl acetate was added and washed with potassium sodium tartrate (10%) twice. Organic layer was separated, dried over anhydrous Na2SO4, filtered and concentrated to give a crude product that was purified via preparative HPLC. The corresponding fractions were collected and lyophilized to afford N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide as a white solid in 70.0% yield. LCMS m/z (%)=232 (M+H, 100). 1H NMR (400 MHz, DMSO-d6) δ: 7.39 (s, 1H), 6.86 (d, J=8.74 Hz, 1H), 6.62 (d, J=8.70 Hz, 1H), 6.47 (s, 1H), 6.15 (s, 1H), 4.80 (bs, 2H), 3.87 (t, J=5.80 Hz, 2H), 3.63 (s, 3H), 2.44 (t, J=5.80 Hz, 2H), 2.08 (s, 6H).

reactant | N-[4-methoxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 8.15 mmol, 2.0 g | COC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C13H15N3O2
reactant | aluminium chloride | 32.6 mmol, 4.35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
product | N-[4-hydroxy-3-(2-methyl-2H-pyrazol-3-yl)-phenyl]-acetamide | 70.0% yield | OC1=C(C=C(C=C1)NC(C)=O)C=1N(N=CC1)C | C12H13N3O2
